US08058045B2
5-Bromopyrazin-2-amine (0.11 g, 0.63 mmol) was dissolved in NaOMe/MeOH (0.23 g Na metal in 10 mL MeOH) and heated by microwave irradiation at 140° C. for 7 hours. After evaporation of the solvent, the residue was purified by preparative TLC, eluting with 30% ethyl acetate-n-hexane, to give 5-methoxypyrazin-2-amine (25 mg, 32%).

reactant | 5-Bromopyrazin-2-amine | 0.63 mmol, 0.11 g | BrC=1N=CC(=NC1)N | C4H4BrN3
reactant | NaOMe MeOH | 10 mL, 0.23 g | C[O-].[Na+].CO
product | 5-methoxypyrazin-2-amine | 25 mg, 32% | COC=1N=CC(=NC1)N | C5H7N3O
